* NGSPICE file created from gf180mcu_ocd_sc_rt12t3v3__inv_4.ext - technology: gf180mcuD

.subckt gf180mcu_ocd_sc_rt12t3v3__inv_4 A Y VDD VSS
X0 Y A VSS VSS nfet_03v3 ad=0.3087p pd=2.01u as=4.2213p ps=21.07u w=1.02u l=0.28u
X1 VDD A Y VDD pfet_03v3 ad=0.8721p pd=4.44u as=0.4446p ps=2.23u w=1.71u l=0.28u
X2 Y A VDD VDD pfet_03v3 ad=0.4446p pd=2.23u as=0.4446p ps=2.23u w=1.71u l=0.28u
X3 Y A VSS VSS nfet_03v3 ad=0.3087p pd=2.01u as=4.2213p ps=21.07u w=1.02u l=0.28u
X4 Y A VDD VDD pfet_03v3 ad=0.4446p pd=2.23u as=0.7524p ps=4.3u w=1.71u l=0.28u
X5 VDD A Y VDD pfet_03v3 ad=0.4446p pd=2.23u as=0.4446p ps=2.23u w=1.71u l=0.28u
X6 Y A VSS VSS nfet_03v3 ad=0.3087p pd=2.01u as=4.2213p ps=21.07u w=1.02u l=0.28u
X7 VDD A Y VDD pfet_03v3 ad=0.4446p pd=2.23u as=0.4446p ps=2.23u w=1.71u l=0.28u
X8 Y A VDD VDD pfet_03v3 ad=0.4446p pd=2.23u as=0.4446p ps=2.23u w=1.71u l=0.28u
X9 Y A VSS VSS nfet_03v3 ad=0.3087p pd=2.01u as=4.2213p ps=21.07u w=1.02u l=0.28u
.ends

