* NGSPICE file created from gf180mcu_ocd_sc_rt12t3v3__tbuf_1.ext - technology: gf180mcuD

.subckt gf180mcu_ocd_sc_rt12t3v3__tbuf_1 A EN Y VDD VSS
X0 EN_BAR EN VDD VDD pfet_03v3 ad=0.3341p pd=1.805u as=0.5654p ps=3.45u w=1.285u l=0.28u
X1 a_211_203r# A VSS VSS nfet_03v3 ad=0.3087p pd=2.01u as=3.0308p ps=16.66u w=1.02u l=0.28u
X2 VDD A a_211_203r# VDD pfet_03v3 ad=0.5654p pd=3.45u as=0.3341p ps=1.805u w=1.285u l=0.28u
X3 VDD a_211_203r# a_540_987# VDD pfet_03v3 ad=0.3341p pd=1.805u as=0.5654p ps=3.45u w=1.285u l=0.28u
X4 Y EN a_629_203r# VSS nfet_03v3 ad=0.3087p pd=2.01u as=0.52065p ps=3.23u w=1.02u l=0.28u
X5 a_540_987# EN_BAR Y VDD pfet_03v3 ad=0.5654p pd=3.45u as=0.3341p ps=1.805u w=1.285u l=0.28u
X6 a_540_987# a_211_203r# VDD VDD pfet_03v3 ad=0.3341p pd=1.805u as=0.3341p ps=1.805u w=1.285u l=0.28u
X7 VDD EN EN_BAR VDD pfet_03v3 ad=0.5654p pd=3.45u as=0.3341p ps=1.805u w=1.285u l=0.28u
X8 a_211_203r# A VDD VDD pfet_03v3 ad=0.3341p pd=1.805u as=0.5654p ps=3.45u w=1.285u l=0.28u
X9 Y EN_BAR a_540_987# VDD pfet_03v3 ad=0.3341p pd=1.805u as=0.3341p ps=1.805u w=1.285u l=0.28u
X10 EN_BAR EN VSS VSS nfet_03v3 ad=0.3087p pd=2.01u as=3.0308p ps=16.66u w=1.02u l=0.28u
X11 a_629_203r# a_211_203r# VSS VSS nfet_03v3 ad=0.3087p pd=2.01u as=3.0308p ps=16.66u w=1.02u l=0.28u
.ends

