* NGSPICE file created from gf180mcu_ocd_sc_rt12t3v3__xnor2_1.ext - technology: gf180mcuD

.subckt gf180mcu_ocd_sc_rt12t3v3__xnor2_1 A B Y VDD VSS
X0 VDD A AN VDD pfet_03v3 ad=0.5654p pd=3.45u as=0.3341p ps=1.805u w=1.285u l=0.28u
X1 VDD AN a_1313_987# VDD pfet_03v3 ad=0.3341p pd=1.805u as=0.5654p ps=3.45u w=1.285u l=0.28u
X2 Y A a_540_987# VDD pfet_03v3 ad=0.3341p pd=1.805u as=0.5654p ps=3.45u w=1.285u l=0.28u
X3 a_830_145# AN Y VSS nfet_03v3 ad=0.52065p pd=3.23u as=0.3087p ps=2.01u w=1.02u l=0.28u
X4 a_540_987# B VDD VDD pfet_03v3 ad=0.5654p pd=3.45u as=0.3341p ps=1.805u w=1.285u l=0.28u
X5 a_1313_987# AN VDD VDD pfet_03v3 ad=0.3341p pd=1.805u as=0.3341p ps=1.805u w=1.285u l=0.28u
X6 AN A VSS VSS nfet_03v3 ad=0.3087p pd=2.01u as=4.00512p ps=22.26u w=1.02u l=0.28u
X7 a_540_987# A Y VDD pfet_03v3 ad=0.3341p pd=1.805u as=0.3341p ps=1.805u w=1.285u l=0.28u
X8 BN B VSS VSS nfet_03v3 ad=0.3087p pd=2.01u as=4.00512p ps=22.26u w=1.02u l=0.28u
X9 a_1411_203r# A VSS VSS nfet_03v3 ad=0.3087p pd=2.015u as=4.00512p ps=22.26u w=1.02u l=0.28u
X10 BN B VDD VDD pfet_03v3 ad=0.3341p pd=1.805u as=0.5654p ps=3.45u w=1.285u l=0.28u
X11 AN A VDD VDD pfet_03v3 ad=0.3341p pd=1.805u as=0.5654p ps=3.45u w=1.285u l=0.28u
X12 Y BN a_1313_987# VDD pfet_03v3 ad=0.3341p pd=1.805u as=0.3341p ps=1.805u w=1.285u l=0.28u
X13 Y BN a_1411_203r# VSS nfet_03v3 ad=0.3087p pd=2.01u as=0.52065p ps=3.23u w=1.02u l=0.28u
X14 VDD B a_540_987# VDD pfet_03v3 ad=0.3341p pd=1.805u as=0.3341p ps=1.805u w=1.285u l=0.28u
X15 a_830_145# B VSS VSS nfet_03v3 ad=0.3087p pd=2.01u as=4.00512p ps=22.26u w=1.02u l=0.28u
X16 a_1313_987# BN Y VDD pfet_03v3 ad=0.5654p pd=3.45u as=0.3341p ps=1.805u w=1.285u l=0.28u
X17 VDD B BN VDD pfet_03v3 ad=0.5654p pd=3.45u as=0.3341p ps=1.805u w=1.285u l=0.28u
.ends

